US05250547
A solution of 6-nitro-2,2-dimethyl-3-hydroxy-3,4-dihydro-3-(trifluoroacetamido)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.5 g, 1.13 mmol) in tetrahydrofuran (20 ml) containing sodium hydride (80%, 0.034 g, 1.13 mol) was refluxed for one hour. Water and ethyl acetate were added to the cooled solution and the organic phase was separated and evaporated under reduced pressure. The residue was chromatographed on silica gel, eluting with dichloromethane/acetone (95/5), to give 0.13 g of 6-nitro-2,2-dimethyl-3-(trifluoroacetamido)methyl-4-(2-oxo- 1,2-dihydropyridin-1-yl)-2H-1-benzopyran, m.p. 189° C.

reactant | 6-nitro-2,2-dimethyl-3-hydroxy-3,4-dihydro-3-(trifluoroacetamido)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 1.13 mmol, 0.5 g | [N+](=O)([O-])C=1C=CC2=C(C(C(C(O2)(C)C)(CNC(C(F)(F)F)=O)O)N2C(C=CC=C2)=O)C1 | C19H18F3N3O6
reactant | sodium hydride | 1.13 mol, 0.034 g | [H-].[Na+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-nitro-2,2-dimethyl-3-(trifluoroacetamido)methyl-4-(2-oxo- 1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.13 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CNC(C(F)(F)F)=O)N2C(C=CC=C2)=O)C1 | C19H16F3N3O5
